US04837217
In 20 ml of N,N-dimethylformamide were dissolved 2.0 g of 2-t-butyl-5-mercapto-4-methyl-3(2H)-pyridazinone and 1.9 g of 2-t-butyl-5-chloromethylthiophene, and thereto was added under stirring 1.5 g of potassium carbonate at room temperature. After additional stirring for 8 hours at room temperature, the mixture was poured into 50 ml of water and then extracted twice with 50 ml of benzene. The organic layer was washed with water, dried over anhydrous sodium sulfate and then freed of solvent by distillation under reduced pressure to obtain 3.5 g of a crude product. The crude product was separated and purified through thin layer chromatography (on silica gel; benzene) to give 2.2 g of 2-t-butyl-5-{(5-t-butyl-2-thienyl)-methylthio}-4-methyl-3(2H)-pyridazinone as an oil.

reactant | 2-t-butyl-5-mercapto-4-methyl-3(2H)-pyridazinone | 2.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)S | C9H14N2OS
reactant | 2-t-butyl-5-chloromethylthiophene | 1.9 g | C(C)(C)(C)C=1SC(=CC1)CCl | C9H13ClS
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-5-{(5-t-butyl-2-thienyl)-methylthio}-4-methyl-3(2H)-pyridazinone | 2.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)SCC=1SC(=CC1)C(C)(C)C | C18H26N2OS2
